US06878733B1
5-(5-Methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-3-methyl-1H-pyrrole -2-carboxylic Acid (3-dimethylamino-propyl)amide
5-Methoxy-1,3-dihydroindol-2-one (82.5 mg, 0.5 mmol) was condensed with 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide to give 80 mg (39%) of the title compound.

reactant | 5-Methoxy-1,3-dihydroindol-2-one | 0.5 mmol, 82.5 mg | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
reactant | 5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid (3-diethylaminopropyl)amide | C(C)N(CCCNC(=O)C=1NC(=CC1C)C=O)CC | C14H23N3O2
product | 5-(5-Methoxy-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-3-methyl-1H-pyrrole -2-carboxylic Acid (3-dimethylamino-propyl)amide | 80 mg, 39% | CN(CCCNC(=O)C=1NC(=CC1C)C=C1C(NC2=CC=C(C=C12)OC)=O)C | C21H26N4O3
